US05550290
According to the same manner as that described in Synthesis Example 1, 14.9 g of N,N'-diacetyl-3,3'-dimethylbenzidine was reacted with 21.8 g of para-iodobenzene to give N,N'-di-p-tolyl-3,3'-dimethylbenzidine. Further, 12.0 g of N,N'-di-p-tolyl-3,3'-dimethylbenzidine was reacted with 15.4 g of 4-ethyl-4'-iodobiphenyl according to the same manner as that described in Synthesis Example 1 to give N,N'-di-p-tolyl-N,N'-di(4'-ethylbiphenyl-4-yl)-3,3'-dimethylbenzidine (hereinafter referred to as 6-c) (8.82 g, yield: 23.7%).

reactant | N,N'-di-p-tolyl-3,3'-dimethylbenzidine | 12.0 g | C1(=CC=C(C=C1)NC1=C(C=C(C=C1)C1=CC(=C(NC2=CC=C(C=C2)C)C=C1)C)C)C | C28H28N2
reactant | 4-ethyl-4'-iodobiphenyl | 15.4 g | C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)I | C14H13I
product | N,N'-di-p-tolyl-N,N'-di(4'-ethylbiphenyl-4-yl)-3,3'-dimethylbenzidine | yield: 23.7% | C1(=CC=C(C=C1)N(C1=C(C=C(C=C1)C1=CC(=C(N(C2=CC=C(C=C2)C2=CC=C(C=C2)CC)C2=CC=C(C=C2)C)C=C1)C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)CC)C | C56H52N2
